US07432258B2
Ethyl N-(cyanomethyl)-N-(3,4-dichlorophenyl)glycinate (1.00 g, 3.48 mmol) was dissolved in 10 mL of THF and treated with LiOH (83.4 mg, 3.48 mmol) dissolved in 2 mL of water. After 2 h, HPLC (Eclipse XDB-C18, 4.6×250 mm, 5 micron, 1-99% CH3CN/H2O with 0.1% trifluoroacetic acid) showed that all of the starting material (Rt=7.6 min) was gone and that a single new peak (Rt=6.2 min) had formed. The reaction mixture was treated with a solution of 4.0M HCl in dioxane (1.74 mL, 6.96 mmol) and then the solvent was removed by rotary evaporation followed by high vacuum to give 870 mg (3.36 mmol, 96%) of N-(cyanomethyl)-N-(3,4-dichlorophenyl)glycine as a white solid which was used in subsequent chemistry without further purification. LC/MS (APCI) m/e 232 [M−CN]+.

reactant | Ethyl N-(cyanomethyl)-N-(3,4-dichlorophenyl)glycinate | 3.48 mmol, 1.00 g | C(#N)CN(CC(=O)OCC)C1=CC(=C(C=C1)Cl)Cl | C12H12Cl2N2O2
reactant | LiOH | 3.48 mmol, 83.4 mg | [Li+].[OH-]
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | HCl | 4.0M | Cl | ClH
reactant | dioxane | 6.96 mmol, 1.74 mL | O1CCOCC1 | C4H8O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
solvent | CH3CN H2O | CC#N.O
product | N-(cyanomethyl)-N-(3,4-dichlorophenyl)glycine | 3.36 mmol, 870 mg, 96% | C(#N)CN(CC(=O)O)C1=CC(=C(C=C1)Cl)Cl | C10H8Cl2N2O2
